US04617393
(Step b) Preparation of 2-Methyl-4,6 dihydroxy-5-fluoropyrimidine
According to the procedure of J. Chem. Soc. 1959, 3286, a solution of 0.92 g (40 mmol) of sodium metal dissolved in 20 mL of methaol was treated with 2.08 g (22 mmol) of acetamidine hydrochloride. After 5 minutes, to this stirred mixture was added 3.6 g (20 mmol) of diethyl fluoromalonate. The reaction mixture was heated to reflux for 18 hours, cooled to 23° C., and then concentrated in vacuo. The residue was dissolved in water, neutralized with aqueous 3N HCl (6 mL), and chilled. A precipitate which formed was isolated by filtration and triturated with a 1:1 mixture of diethyl ether/ethyl acetate. The resulting crude product (1.36 g, 47%) was used without further purification.

reactant | sodium | 40 mmol, 0.92 g | [Na] | Na
reactant | acetamidine hydrochloride | 22 mmol, 2.08 g | Cl.C(C)(=N)N
reactant | diethyl fluoromalonate | 20 mmol, 3.6 g | FC(C(=O)OCC)C(=O)OCC | C7H11FO4
product | 2-Methyl-4,6 dihydroxy-5-fluoropyrimidine | CC1=NC(=C(C(=N1)O)F)O | C5H5FN2O2
